US04174405
2,3-Diphenyl-5-p-t-butylphenylthiophene
A 1-liter stirred autoclave was charged with 55.6 g (0.150 mole) of 1,2-diphenyl-4-p-t-butylphenylbutane-1,4-dione, 100 ml of xylene, 33.3 g (0.075 mole) of phosphorus pentasulfide and 130 g of hydrogen sulfide. The reactor was cooled and vented. The residue was stirred with 150 ml of absolute ethanol. Filtration gave a first crop of 18 g (32.6%) m.p. 108°-112° C. Chilling the filtrate and refiltering gave a second crop of 24 g (43.4%) m.p. 102°-105° C. The two crops were combined for recrystallization from a mixture of 50 ml of dioxane and 100 ml of absolute ehtanol. The pure product (31.3 g, 56.6%) had a m.p. of 117°-119° C.

reactant | 1,2-diphenyl-4-p-t-butylphenylbutane-1,4-dione | 0.150 mole, 55.6 g | C1(=CC=CC=C1)C(C(CC(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1)=O | C26H26O2
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | phosphorus pentasulfide | 0.075 mole, 33.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hydrogen sulfide | 130 g | S | H2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,3-Diphenyl-5-p-t-butylphenylthiophene | C1(=CC=CC=C1)C=1SC(=CC1C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C | C26H24S
